US04236002
(-)-α-Amino-3-(chloromethyl)-4-hydroxybenzeneacetic acid hydrochloride
To a solution of (-)-α-amino-4-hydroxybenzeneacetic acid (100 g, 0.6 mole) in a minimum amount of concentrated hydrochloric acid at 35°-40° C. is added 50 ml of aqueous formaldehyde (35-37%) (0.6 mole). The addition of hydrogen chloride gas is begun. After 5-10 minutes, a solid begins to precipitate. Stirring is continued for 30 minutes, and the solid is then collected. The crude product is washed with ether and with acetone. A second crop is obtained from the filtrate after standing at room temperature overnight. Total yield is 102 g (67%) m.p. >300° C., [α]D18 =-134° (c 4.75, CH3OH) NMR (DMSO-D6) ppm (δ) 4.68 (s,2), 4.9 (broad s,1), 6.9-7.6 (superimposed q and s,3).

reactant | (-)-α-amino-4-hydroxybenzeneacetic acid | 0.6 mole, 100 g | NC(C(=O)O)C1=CC=C(C=C1)O | C8H9NO3
reactant | hydrochloric acid | Cl | ClH
reactant | formaldehyde | 0.6 mole, 50 ml | C=O | CH2O
solvent | CH3OH | CO | CH4O
product | (-)-α-Amino-3-(chloromethyl)-4-hydroxybenzeneacetic acid hydrochloride | Cl.NC(C(=O)O)C1=CC(=C(C=C1)O)CCl | InChI=1S/C9H10ClNO3.ClH/c10-4-6-3-5(1-2-7(6)12)8(11)9(13)14;/h1-3,8,12H,4,11H2,(H,13,14);1H
